* baseline strain magnitude
.include bsim4l14_nmos.subckt
Veps eps_s 0 dc 0.0
Valp alpha 0 dc 0.0
Vdd d 0 dc 1.0
Vgs g 0 dc 0.75
Vss s 0 dc 0.0
Vbb b 0 dc 0.0
Xdev d g s b bsim4l14_nmos W=10u L=180n
.dc Veps 0.0 0.005 0.0005
.print dc v(eps_s) v(alpha) i(Vdd)
.end
